US06960598B2
2-Amino-3-fluorobenzonitrile (9.8 g, 71.9 mmol) was dissolved in hot 1,4-dioxane (10 mL), 48% hydrobromic acid (100 mL) was added and the mixture cooled to 0° C. before dropwise addition of sodium nitrite (5.71 g, 82.7 mmol) in water (10 mL) over 1.5 h. The resulting mixture was stirred at 0° C. for 1.5 h then poured onto a cooled (0° C.) solution of copper(I) bromide (31.0 g, 216 mmol) in 48% hydrobromic acid (25 mL). The solution was stirred at 0° C. for 15 min then heated at 50° C. for 20 min. The mixture was cooled to ambient temperature, diluted with water (600 mL) and extracted with ethyl acetate (2×200 mL). The combined organics were washed with 10% aqueous ammonia solution (200 mL), water (200 mL) and brine (250 mL), dried over anhydrous magnesium sulfate, filtered and evaporated to give an orange oil. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (2-4%) gave 2-bromo-3-fluorobenzonitrile (7.05 g, 49%) as a pale brown solid: δH (360 MHz, CDCl3) 7.62-7.68 (1H, m), 7.74-7.85 (1H, ddd, J 9, 9 and 1), 7.74-7.85 (1H, ddd, J 8, 1 and 1).

reactant | 2-Amino-3-fluorobenzonitrile | 71.9 mmol, 9.8 g | NC1=C(C#N)C=CC=C1F | C7H5FN2
reactant | sodium nitrite | 82.7 mmol, 5.71 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 25 mL | Br | BrH
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | water | 600 mL | O | H2O
catalyst | copper(I) bromide | 216 mmol, 31.0 g | [Cu]Br
product | 2-bromo-3-fluorobenzonitrile | 7.05 g, 49% | BrC1=C(C#N)C=CC=C1F | C7H3BrFN
